US07135572B2
N-(1-ethoxy-ethylidene)-4-bromo-benzamide 565 mg (2.09 mmol) was dissolved in a mixed solvent of dichloromethane 20 ml and methanol 10 ml, (5-methansulfonyl-pyridine-2-yl)-hydrazine 431 mg(2.23 mmol) was added to the solution and the solution was stirred for 8 hours. After completing the reaction, water 20 ml was added to the reacting solution and extracted two times with dichloromethane, and then, the collected organic layer was washed with saturated brine. The organic layer was dried with anhydrous magnesium sulfate, filtered and concentrated under reduced pressure, and the resulting product was re-crystallized in acetone and hexane phase. As a result, 2-[5-(4-bromo-phenyl)-3-methyl-[1,2,4]triazole-1-yl]-5-methanesulfonyl-pyridine (502 mg, yield: 61%) was obtained as a solid phase.

reactant | N-(1-ethoxy-ethylidene)-4-bromo-benzamide | 2.09 mmol, 565 mg | C(C)OC(C)=NC(C1=CC=C(C=C1)Br)=O | C11H12BrNO2
reactant | (5-methansulfonyl-pyridine-2-yl)-hydrazine | 2.23 mmol, 431 mg | CS(=O)(=O)C=1C=CC(=NC1)NN | C6H9N3O2S
reactant | water | 20 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | 2-[5-(4-bromo-phenyl)-3-methyl-[1,2,4]triazole-1-yl]-5-methanesulfonyl-pyridine | 502 mg, yield: 61% | BrC1=CC=C(C=C1)C1=NC(=NN1C1=NC=C(C=C1)S(=O)(=O)C)C | C15H13BrN4O2S
